US08026234B2
Compound 70: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperidin-4-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-N—Boc 4-amino piperidine. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml). The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.11-1.27 (m, 1H) 1.30-1.51 (m, 4H) 1.52-1.69 (m, 3H) 1.69-1.90 (m, 6H) 2.41-2.59 (m, 2H) 2.97 (d, J=12.38 Hz, 2H) 3.31 (s, 3H) 3.73-3.89 (m, 1H) 3.94 (s, 3H) 4.06 (t, J=13.52 Hz, 2H) 4.38-4.52 (m, 1H) 7.48 (dd, J=8.34, 1.77 Hz, 1H) 7.51 (d, J=1.77 Hz, 1H) 7.90 (s, 1H) 8.14 (d, J=7.83 Hz, 1H) 8.21 (s, 1H) 8.26 (d, J=8.34 Hz, 1H). [M+H] calc'd for C27H35F2N7O3 544. found 544.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-N—Boc 4-amino piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(piperidin-4-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCNCC1)C=C2)OC | C27H35F2N7O3
